US05700796
N-[3-Bromo-4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-pyridin-2-yl-benzamide
To a stirred solution of the product from Reference Example 6, 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine (0.54 g. 2.93 mmol) in dichloromethane (35 ml), under nitrogen, was added triethylamine (0.49 ml, 3.52 mmol). The mixture was cooled to 0° C. before a suspension of the crude 2-bromo-4-[(2-pyridin-2-ylbenzoyl)amino]benzoyl chloride (1.4 g) in dichloromethane (5 ml) was added dropwise. After the addition was complete, the reaction mixture was allowed to warm to room temperature. After 18 hours the reaction mixture was poured into water and sequentially washed with water, saturated aqueous sodium bicarbonate, twice with 10% aqueous acetic acid, once with saturated aqueous sodium bicarbonate and once with water. The organic solution was dried (Na2SO4), filtered and in vacuo to yield a dark purple foam (1.73 g). Purification by flash chromatography on silica gel with hexane-ethyl acetate (1:2) as the mobile phase, followed by-- concentration in vacuo, resulted in a colorless solid (1.23 g, 75%), m.p. 227.5°-229° C. MS (ESI),m/z: 563 (M+).

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 2.93 mmol, 0.54 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | triethylamine | 3.52 mmol, 0.49 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-4-[(2-pyridin-2-ylbenzoyl)amino]benzoyl chloride | 1.4 g | BrC1=C(C(=O)Cl)C=CC(=C1)NC(C1=C(C=CC=C1)C1=NC=CC=C1)=O | C19H12BrClN2O2
reactant | water | O | H2O
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[3-Bromo-4-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-phenyl]-2-pyridin-2-yl-benzamide | 1.73 g | BrC=1C=C(C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)NC(C2=C(C=CC=C2)C2=NC=CC=C2)=O | C31H23BrN4O2
